US07741327B2
In a Parr shaker bottle was placed (S)-5-(3-nitro-pyrazol-1-ylmethyl)-oxazolidin-2-one (364 mg, 1.72 mmol), 10% palladium on carbon (200 mg) and ethanol (25 mL). The bottle was then placed on the Parr shaker at 50 psi of hydrogen pressure for 4 h. The reaction was then filtered through a pad of celite and washed with ethanol and concentrated in vacuo to afford (S)-5-(3-amino-pyrazol-1-ylmethyl)-oxazolidin-2-one (3.60 mg, 91%) as a yellow oil: LR-ES-MS m/z calculated for C7H10N4O2 [M]+ 182, observed 183 [M+H]+.

reactant | (S)-5-(3-nitro-pyrazol-1-ylmethyl)-oxazolidin-2-one | 1.72 mmol, 364 mg | [N+](=O)([O-])C1=NN(C=C1)C[C@@H]1CNC(O1)=O | C7H8N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (S)-5-(3-amino-pyrazol-1-ylmethyl)-oxazolidin-2-one | 3.60 mg, 91% | NC1=NN(C=C1)C[C@@H]1CNC(O1)=O | C7H10N4O2
